US07820821B2
2,4-Dichloro-1-isothiocyanatobenzene (5 mmol) and methyl 3,4-diaminobenzoate (5 mmol) were reacted, following general procedure B, to yield 2-(2,4-dichlorophenylamino)-3H-benzimidazole-5-carboxylic acid methyl ester, which was purified by silica gel chromatography using DCM/ethyl acetate as eluent.

reactant | 2,4-Dichloro-1-isothiocyanatobenzene | 5 mmol | ClC1=C(C=CC(=C1)Cl)N=C=S | C7H3Cl2NS
reactant | methyl 3,4-diaminobenzoate | 5 mmol | NC=1C=C(C(=O)OC)C=CC1N | C8H10N2O2
product | 2-(2,4-dichlorophenylamino)-3H-benzimidazole-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(N=C(N2)NC2=C(C=C(C=C2)Cl)Cl)C=C1 | C15H11Cl2N3O2
